US08404859B2
Preparation of (S)-2-([5-[(1H-Indol-4-ylmethyl)-carbamoyl]-3-trifluoromethyl-thiophene-2-carbonyl]-amino)-3-[(thiophene-2-carbonyl)-amino]-propionic acid methyl ester
To a solution of (S)-3-Amino-2-({5-[(1H-indol-4-ylmethyl)-carbamoyl]-3-trifluoromethyl-thiophene-2-carbonyl}-amino)-propionic acid methyl ester trifluoro-acetic acid salt (0.32 g, 0.49 mmol) in anhydrous DMF (10 mL) was added triethylamine (0.20 mL, 1.47 mmol), HBTU (0.28 g, 0.74 mmol), HOBT (0.079 g, 0.59 mmol), and 2-Thiophenecarboxylic acid (0.069 g, 0.54 mmol). The mixture was stirred at room temperature 2 h, treated with EtOAc (100 mL), washed with brine, dried over sodium sulfate, filtered and evaporated. The solid residue was purified by column (0-80% EtOAc in hexane) to give 0.172 g (61%) colorless oil product. MS m/e 579.0 (M+H+).

reactant | (S)-3-Amino-2-({5-[(1H-indol-4-ylmethyl)-carbamoyl]-3-trifluoromethyl-thiophene-2-carbonyl}-amino)-propionic acid methyl ester trifluoro-acetic acid salt | 0.49 mmol, 0.32 g | FC(C(=O)O)(F)F.COC([C@H](CN)NC(=O)C=1SC(=CC1C(F)(F)F)C(NCC1=C2C=CNC2=CC=C1)=O)=O
reactant | triethylamine | 1.47 mmol, 0.20 mL | C(C)N(CC)CC | C6H15N
reactant | HBTU | 0.74 mmol, 0.28 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBT | 0.59 mmol, 0.079 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-Thiophenecarboxylic acid | 0.54 mmol, 0.069 g | S1C(=CC=C1)C(=O)O | C5H4O2S
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | (S)-2-([5-[(1H-Indol-4-ylmethyl)-carbamoyl]-3-trifluoromethyl-thiophene-2-carbonyl]-amino)-3-[(thiophene-2-carbonyl)-amino]-propionic acid methyl ester | 0.172 g, 61% | COC([C@H](CNC(=O)C=1SC=CC1)NC(=O)C=1SC(=CC1C(F)(F)F)C(NCC1=C2C=CNC2=CC=C1)=O)=O | C25H21F3N4O5S2
